US07101883B2
Sodium azide (0.6 g, 9.34 mmol) was added to a solution of 5-(chloromethyl)-2,4(1H,3H)-pyrimidinedione (0.3 g, 1.67 mmol) in DMSO (5 ml) under nitrogen at room temperature. The reaction was stirred for 2 h then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and concentrated to give the 5-(azidomethyl)-2,4(1H,3H)-pyrimidinedione (0.275 g, 98%) as a yellow solid.

reactant | Sodium azide | 9.34 mmol, 0.6 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(chloromethyl)-2,4(1H,3H)-pyrimidinedione | 1.67 mmol, 0.3 g | ClCC=1C(NC(NC1)=O)=O | C5H5ClN2O2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 5-(azidomethyl)-2,4(1H,3H)-pyrimidinedione | 0.275 g, 98% | N(=[N+]=[N-])CC=1C(NC(NC1)=O)=O | C5H5N5O2
